US09024027B2
To a solution of 2-(4-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetic acid (100 mg, 0.262 mmol) in DCM (5 ml), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (110 mg, 0.262 mmol), EDC (151 mg, 0.786 mmol) and DMAP (64.1 mg, 0.524 mmol) were added, and the mixture was reacted overnight at room temperature. The solvent was evaporated and the residue was partitioned between 1N HCl (10 ml) and EtOAc; the aqueous phase was extracted with EtOAc, the combined organic layers were dried over sodium sulfate and the solvent was removed under vacuum. Three flash chromatographic column on silica gel (DCM/MeOH 97/3) were required to afford (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide (21.4 mg, 0.027 mmol, 10.4% yield, MS/ESI+ 783.19 [MH]+, [αD]=+14.1, c=0.2 DCM). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.50 (s, 2H), 7.34 (d, 1H), 7.07-7.21 (m, 5H), 6.90 (dd, 1H), 7.06 (t, 1H), 6.55 (d, 1H), 6.02 (dd, 1H), 5.25 (d, 1H), 5.10 (d, 1H), 3.91 (d, 2H), 3.80 (t, 2H), 3.46-3.54 (m, 4H), 3.41 (dd, 1H), 3.21 (dd, 1H), 3.09 (s, 3H), 2.32 (dd, 2H), 2.23-2.31 (m, 4H), 1.07-1.36 (m, 1H), 0.54-0.65 (m, 2H), 0.29-0.47 (m, 2H).

reactant | 2-(4-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetic acid | 0.262 mmol, 100 mg | O1CCN(CC1)CCN(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)O | C17H23N3O5S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.262 mmol, 110 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.786 mmol, 151 mg
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.524 mmol, 64.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.027 mmol, 21.4 mg, 10.4% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C=CC2=C(C=CC=C12)N(S(=O)(=O)C)CCN1CCOCC1)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C35H38Cl2F2N4O8S
